US07368578B2
To a solution of ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-hydroxybenzyl)oxy]-1H-pyrazole-4-carboxylate (0.60 g) in tetrahydrofuran (10 mL) was added lithium aluminum hydride (0.07 g) at 0° C. and the mixture was stirred at room temperature for 1 hr. Sodium sulfate decahydrate (0.55 g) was added to the reaction mixture, and the mixture was stirred at room temperature for 30 min. The reaction mixture was diluted with ethyl acetate and the precipitate was filtered off, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and eluted with tetrahydrofuran-hexane (1:1, v/v) to obtain {1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-hydroxybenzyl)oxy]-1H-pyrazol-4-yl}methanol as a colorless oil (0.35 g, yield 65%).

reactant | ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-hydroxybenzyl)oxy]-1H-pyrazole-4-carboxylate | 0.60 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)O | C29H27N3O7
reactant | lithium aluminum hydride | 0.07 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | 0.55 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-hydroxybenzyl)oxy]-1H-pyrazol-4-yl}methanol | 0.35 g, yield 65% | C(C1=CC=CC=C1)N1N=C(C(=C1)CO)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)O | C27H25N3O6
